US05264454
To a mixture of 4-(2-chlorophenyl)-7,8-dihydro-3-nitro-6H-cyclopenta[g]quinoline (4.50 g), dioxane (45 ml) and concentrated hydrochloric acid (15 ml) was added tin(II) chloride dihydrate (9.5 g) followed by stirring at room temperature for one hour. The reaction mixture was then diluted with water, made strongly alkaline with 6N NaOH and extracted with chloroform. The extract was washed with water and dried (MgSO4) and the solvent was distilled off to give crystals of 3-amino-4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinoline. The crystals were collected by filtration and washed with isopropyl ether (3.45 g, 83.3%). Recrystallization from ether gave colorless needles, mp 179°-180° C.

reactant | 4-(2-chlorophenyl)-7,8-dihydro-3-nitro-6H-cyclopenta[g]quinoline | 4.50 g | ClC1=C(C=CC=C1)C1=C(C=NC2=CC3=C(C=C12)CCC3)[N+](=O)[O-] | C18H13ClN2O2
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | tin(II) chloride dihydrate | 9.5 g | O.O.[Sn](Cl)Cl
reactant | NaOH | 6N | [OH-].[Na+]
solvent | water | O | H2O
solvent | dioxane | 45 ml | O1CCOCC1 | C4H8O2
product | 3-amino-4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinoline | NC=1C=NC2=CC3=C(C=C2C1C1=C(C=CC=C1)Cl)CCC3 | C18H15ClN2
